US08445518B2
Exemplified by N-[2-(5-Amino-4-isopropyl-4H-[1,2,4]triazol-3-yl)-4-chloro-phenyl]-4-tert-butyl-benzenesulfonamide
Cyanogen bromide (110.9 mg, 1.05 mmol) was added to a solution of 4-tert-butyl-N-(6-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-benzenesulfonamide (200 mg, 0.524 mmol) and potassium carbonate (145 mg, 1.05 mmol) in dioxane (2 mL). The resultant mixture reaction was stirred for 18 h at room temperature. Isopropyl amine (0.18 mL, 2.09 mmol) and acetic acid (0.15 mL) were subsequently added and the reaction was heated at 135° C. for 18 h. The crude mixture was partitioned between ethyl acetate and water and the layers were separated. The organic phase was washed with 1N HCl, saturated sodium bicarbonate, and brine; dried over magnesium sulfate, and concentrated in vacuo. The crude product was subsequently purified via flash column chromatography (10-100% ethyl acetate and hexane) followed by preparative HPLC (10-90% gradient of MeCN-water) to afford the title compound as a white solid: MS (ES) M+H expected 449.1. found 449.2.

reactant | Cyanogen bromide | 1.05 mmol, 110.9 mg | N#CBr | CBrN
reactant | 4-tert-butyl-N-(6-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-benzenesulfonamide | 0.524 mmol, 200 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC(=CC1)Cl)C(=O)NN | C16H19ClN4O3S
reactant | potassium carbonate | 1.05 mmol, 145 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Isopropyl amine | 2.09 mmol, 0.18 mL | C(C)(C)N | C3H9N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | acetic acid | 0.15 mL | C(C)(=O)O | C2H4O2
product | N-[2-(5-Amino-4-isopropyl-4H-[1,2,4]triazol-3-yl)-4-chloro-phenyl]-4-tert-butyl-benzenesulfonamide | NC=1N(C(=NN1)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C(C)C | C21H26ClN5O2S
